US06756372B2
(a) 4-Amino-4-cyano-piperidine-1-carboxylic acid t-butyl ester
t-Butyl 4-oxo-1-piperidine-carboxylate (10 g, 50 mmol, 1.0 equiv) was dissolved 100 mL of 2 M NH3 in MeOH. NaCN (2.7 g, 55 mmol, 1.1 equiv) and NH4Cl (3 g, 55 mmol, 1.1 equiv) were added and the resulting mixture was refluxed for 2 h at which time an additional 100 mL of 2 M NH3 in MeOH was added followed by another 2 h of reflux. The reaction mixture was cooled and filtered. The MeOH was removed in vacuo and the residue triturated with 100 mL of CH2Cl2 and filtered again. The filtrate was concentrated by about 75% and 200 mL of hexanes was added to give a tan precipitate that was collected by filtration to yield, after drying under vacuum, the desired product as cream-colored solid (10.1 g) which was used without further purification.

reactant | t-Butyl 4-oxo-1-piperidine-carboxylate | 50 mmol, 10 g, 1.0 equiv | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | NH3 | 2 M, 100 mL | N | H3N
reactant | NaCN | 55 mmol, 2.7 g, 1.1 equiv | [C-]#N.[Na+]
reactant | NH4Cl | 55 mmol, 3 g, 1.1 equiv | [NH4+].[Cl-]
reactant | NH3 | 2 M, 100 mL | N | H3N
reactant | MeOH | CO | CH4O
product | 4-Amino-4-cyano-piperidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C#N)N | C11H19N3O2
